US07015233B2
5-tert-butyl-2,3-dihydro-1H-inden-1-ylamine
5-tert-Butyl-1-indanone O-methyloxime (4.37 g, 20.2 mmol) and 10% palladium on carbon (2.2 g) were combined in methanol (50 ml) and ammonia (10 ml) and placed in a Parr apparatus which was charged with hydrogen to 60 psi. The reaction was shaken at 50° C. for 16 hours. The reaction mixture was filtered and the filtrate was evaporated under reduced pressure. The residue was treated with diethyl ether (100 ml) and extracted with hydrochloric acid (1N, 3×50 ml). The combined aqueous extracts were neutralized with sodium hydroxide (6 g) in water (25 ml) and extracted with diethyl ether. The organic extracts were combined, dried with magnesium sulfate, and the filtrate was evaporated under reduced pressure to provide the title compound which was used without further purification in the next step.

reactant | 5-tert-Butyl-1-indanone O-methyloxime | 20.2 mmol, 4.37 g | CON=C1CCC2=CC(=CC=C12)C(C)(C)C | C14H19NO
reactant | ammonia | 10 ml | N | H3N
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 2.2 g | [Pd] | Pd
solvent | methanol | 50 ml | CO | CH4O
product | 5-tert-butyl-2,3-dihydro-1H-inden-1-ylamine | C(C)(C)(C)C=1C=C2CCC(C2=CC1)N | C13H19N
